US07495001B2
B] 3-(4-Hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-propionic acid ethyl ester
1.15 g (3.41 mmol) of the above prepared (E)-3-(4-benzyloxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-acrylic acid ethyl ester was dissolved in 20 ml of tetrahydrofuran and hydrogenated over 0.3 g of 10% of palladium on charcoal as catalyst at ambient temperature and atmospheric pressure. Filtering off the catalyst and evaporating the solvent yielded 0.84 g of the title compound as grey solid.

reactant | (E)-3-(4-benzyloxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-acrylic acid ethyl ester | C(C)OC(\C=C\C1=CC=C(C=2CCCCC12)OCC1=CC=CC=C1)=O | C22H24O3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
product | 3-(4-Hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-propionic acid ethyl ester | 0.84 g | C(C)OC(CCC1=CC=C(C=2CCCCC12)O)=O | C15H20O3
